US06051712
70 mg (0.141 mmol) of β-trimethylsilylethyl (3RS,4RS)-4-(4-fluorophenyl)-3-(4-hydroxy-naphthalen-2-ylmethoxy)-piperidine-1-carboxylate were dissolved in 1.0 ml of tetrabutylammonium fluoride solution (1 M in tetrahydrofuran) and stirred at room temperature for one hour. Subsequently, the mixture was partitioned between methylene chloride and aqueous 5% sodium hydrogen carbonate solution, then the organic phase was dried over magnesium sulphate and finally the solvent was distilled off under reduced pressure. The crude product (72 mg) was purified by chromatography on silica gel with a 10:1:0.1 mixture of methylene chloride, methanol and ammonia as the eluent. There were obtained 41 mg (83% of theory) of (3RS,4RS)-4-(4-fluorophenyl)-3-(4-hydroxy-naphthalen-2-ylmethoxy)-piperidine as a colourless solid. MS: 352 (M+H)+.

reactant | β-trimethylsilylethyl (3RS,4RS)-4-(4-fluorophenyl)-3-(4-hydroxy-naphthalen-2-ylmethoxy)-piperidine-1-carboxylate | 0.141 mmol, 70 mg | FC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OCC[Si](C)(C)C)OCC1=CC2=CC=CC=C2C(=C1)O | C28H34FNO4Si
solvent | tetrabutylammonium fluoride | 1 M, 1.0 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (3RS,4RS)-4-(4-fluorophenyl)-3-(4-hydroxy-naphthalen-2-ylmethoxy)-piperidine | 41 mg, 83% | FC1=CC=C(C=C1)C1C(CNCC1)OCC1=CC2=CC=CC=C2C(=C1)O | C22H22FNO2
